US03989522
2,3,3-trimethyl-5-methoxy-indolenine (I)
A mixture of 0.18 mole of 4-methoxy-phenylhydrazine, 0.27 mole of methyl-isopropyl ketone, five drops of acetic acid and 300 ml of ethanol was refluxed for 3 hours and then the solvent was evaporated. The dark residue (28 g of hydrazone) was dissolved in 125 ml of ethanol. After adding 54 ml of a 15 % by weight solution of concentrated sulphuric acid in ethanol the mixture was refluxed for 2.5 hours. The white precipitate (ammonium sulphate was filtered and the filtrate was diluted with 750 ml of water, neutralized with a few ml of aqueous 5N NaOH and extracted with ether. The dried extract was distilled in vacuo.

reactant | 4-methoxy-phenylhydrazine | 0.18 mole | COC1=CC=C(C=C1)NN | C7H10N2O
reactant | methyl-isopropyl ketone | 0.27 mole | CC(=O)C(C)C | C5H10O
catalyst | acetic acid | five drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2,3,3-trimethyl-5-methoxy-indolenine | CC1=NC2=C(C1(C)C)C=C(C=C2)OC | C12H15NO
